US04070539
To a stirred suspension of (1-oxo-2-ethyl-6,7-dichloro-5-indanyloxy)acetic acid (30.3 g., 0.10 moles) in acetic acid (300 ml.) is added a solution of bromine (16.0 g., 0.10 moles) in acetic acid (50 ml.) over a period of 30 minutes. The reaction is catalyzed by the addition of 48% aqueous hydrobromic acid (2 drops). The clear yellow solution is stirred at room temperature for 30 minutes then poured into ice water (1 l.) containing sodium bisulfite (2 g.). The crude (1-oxo-2-bromo-2-ethyl-6,7-dichloro-5-indanyloxy)acetic acid (36 g., 97%) thus obtained is filtered, washed with water and dried. It melts at 189°-191° C. after recrystallization from a mixture of ethyl acetate and hexane.

reactant | (1-oxo-2-ethyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.10 moles, 30.3 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)CC | C13H12Cl2O4
reactant | bromine | 0.10 moles, 16.0 g | BrBr | Br2
reactant | sodium bisulfite | 2 g | S([O-])(O)=O.[Na+]
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | hydrobromic acid | 2 drops | Br | BrH
product | (1-oxo-2-bromo-2-ethyl-6,7-dichloro-5-indanyloxy)acetic acid | 36 g, 97% | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(CC)Br | C13H11BrCl2O4
